US05932745
(3-Chloro-4-iodo-phenyl)-carbamic acid tert-butyl ester
To a solution of 3-chloro4-iodoaniline (20.2 g) in tetrahydrofuran (200 ml) was added di-tert-butyl dicarbonate (39 g) and N,N-diisopropylethylamine (30.9 g). The mixture was heated to reflux for approximately 24 hours, cooled and the solvent removed by evaporation in vacuo. The resulting residue was dissolved in ethyl acetate (450 ml), washed twice with of 5% aqueous hydrochloric acid, once with saturated aqueous sodium bicarbonate, once with water, once with saturated sodium chloride, and dried over anhydrous magnesium sulfate. The solvent was removed by evaporation in vacuo, and trituration of the product with hexanes gave the product as a crystalline solid. MS (-ES) m/z: 352 (M-H)-. Additional purification was accomplished by recrystallization from hot hexanes.

reactant | 3-chloro4-iodoaniline | 20.2 g | ClC=1C=C(N)C=CC1I | C6H5ClIN
reactant | di-tert-butyl dicarbonate | 39 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | N,N-diisopropylethylamine | 30.9 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | (3-Chloro-4-iodo-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=CC(=C(C=C1)I)Cl)=O | C11H13ClINO2
